US07563816B2
Step B: 1-(6-Methoxy-1H-indazol-3-yl)-2-methylprop-1-en-1-yl dimethyl phosphate
The title compound was prepared from 2-bromo-1-(6-methoxy-1H-indazol-3-yl)-2-methylpropan-1-one from the above by heating in excess trimethyl phosphite at 62° C. for 21 hours. Excess trimethyl phosphite was removed by vacuum distillation. The residue was purified on RP-HPLC using 10-90% MeCN gradient in water without TFA. Fractions containing the title compound were pooled, evaporated to dry, and recrystallized from ethyl acetate to give the title compound as colorless crystals. 1H NMR (CDCl3, 500 MHz) δ 11.41 (br s, 1NH), 7.63 (d, 9.0 Hz, 1H), 6.815 (dd, 2.2 & 8.8 Hz, 1H), 6.77 (d, 1.8 Hz, 1H), 3.83 (s, 3H), 3.65 (d, JP-H=11.2 Hz, 6H), 2.04 (d, JP-H=2.5 Hz, 3H), 1.81 (d, JP-H=3.5 Hz, 3H). LC-MS: 2.79 min. (m/Z=201.1, 327.0, 349.2).

reactant | 2-bromo-1-(6-methoxy-1H-indazol-3-yl)-2-methylpropan-1-one | BrC(C(=O)C1=NNC2=CC(=CC=C12)OC)(C)C | C12H13BrN2O2
reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
product | 1-(6-Methoxy-1H-indazol-3-yl)-2-methylprop-1-en-1-yl dimethyl phosphate | P(=O)(OC(=C(C)C)C1=NNC2=CC(=CC=C12)OC)(OC)OC | C14H19N2O5P
